US08048881B2
45.1. 3-methyl-piperazine-1-carboxylic acid ethyl ester
2-methylpiperazine (1 g) was dissolved in MeOH (12 ml) and AcOH (1.8 ml) was added. The mixture was cooled down to 0° C., ethyl chloroformate (0.95 ml) was added over 60 min. The mixture was allowed to warm to RT and was stirred overnight. Water was added and MeOH was evaporated off. The residue was extracted with toluene and the org. layers were washed with water. The combined aq. layers were basified to pH 14 with a 2M NaOH solution and extracted with toluene. The combined org. layers were washed with a NaCl solution, dried (Na2SO4) and evaporated off to give 936 mg of the desired compound.

reactant | 2-methylpiperazine | 1 g | CC1NCCNC1 | C5H12N2
reactant | AcOH | 1.8 ml | CC(=O)O | C2H4O2
reactant | ethyl chloroformate | 0.95 ml | ClC(=O)OCC | C3H5ClO2
reactant | Water | O | H2O
solvent | MeOH | 12 ml | CO | CH4O
product | 3-methyl-piperazine-1-carboxylic acid ethyl ester | 936 mg | C(C)OC(=O)N1CC(NCC1)C | C8H16N2O2
